US05597890
Preparation of the Monomer 5,5'-Diacetyl-2,2'-bithiophene
To a slurry of 1 g tetrakis(triphenyl phosphine) Palladium (0) in 30 ml of dry toluene was added a solution of 6.26 g (30.5 mmol) of 2-acetyl-5-bromo thiophene in 30 ml of dry toluene under argon. The reaction was heated to reflux and to this solution was added dropwise a solution of 5 g (15.26 mmol) of hexamethylditin (99%) in 50 ml toluene (dry) over a period of 1.5 h. The reaction mixture was refluxed for another 6 h and then cooled down to -5° C. Light yellow crystals of the product were isolated by suction filtration and were washed with hexane. The product was then continuously extracted through Whatman filter paper #42 with dioxane using a soxhlet apparatus until all of the product was dissolved and collected in the boiling flask. Slow cooling of the dioxane solution resulted in needle shaped light yellow crystals of the monomer which were separated by suction filtration and dried in vacuum. A Yield of 2.56 g (67%) having the following characteristics was obtained: mp 235° C. (lit. mp 233.5°-234° C.); UV/vis λmax (CHCl3): 367 (log ε=4.19), 262 (3.57); FT-IR (KBr,cm-1): 3070, 1797 1656, 1611, 1511, 1433, 1361, 1302, 1270, 1089, 1036, 1020, 937, 897, 881, 792, 745, 673, 611, 593, 555, 463, 442; 1H NMR (CDCl3 300 MHz, TMS) δ 2.58 (s,6H), 7.30 (d,2H), 7.62 (d,2H). Anal. calcd. for C12H10S2 : C, 57.58; H, 4.03; N, 0.0. Found: C, 57.48; H, 3.87; N, 0.0.

reactant | 2-acetyl-5-bromo thiophene | 30.5 mmol, 6.26 g | C(C)(=O)C=1SC(=CC1)Br | C6H5BrOS
reactant | hexamethylditin | 15.26 mmol, 5 g | C[Sn](C)C.C[Sn](C)C
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenyl phosphine) Palladium (0) | 1 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5,5'-Diacetyl-2,2'-bithiophene | C(C)(=O)C1=CC=C(S1)C=1SC(=CC1)C(C)=O | C12H10O2S2
